US04245108
1.10 g of 3-phenoxybenzaldehyde, 1.65 g of thiophenol and 1.8 g of chloroform were dissolved in 5 ml of ethanol, and to the resulting solution was added dropwise a solution of 2.0 g of potassium hydroxide in 10 ml of ethanol over a period of 90 minutes. The reaction mixture was then stirred overnight at room temperature and then worked up in the same manner as described in Example 1 to obtain 1.10 g (65% yield) of 2-phenylthio-2-(3-phenoxyphenyl)acetic acid.

reactant | 3-phenoxybenzaldehyde | 1.10 g | O(C1=CC=CC=C1)C=1C=C(C=O)C=CC1 | C13H10O2
reactant | thiophenol | 1.65 g | C1(=CC=CC=C1)S | C6H6S
reactant | chloroform | 1.8 g | C(Cl)(Cl)Cl | CHCl3
reactant | potassium hydroxide | 2.0 g | [OH-].[K+]
reactant | ethanol | 5 ml | C(C)O | C2H6O
reactant | ethanol | 10 ml | C(C)O | C2H6O
product | 2-phenylthio-2-(3-phenoxyphenyl)acetic acid | 1.10 g, 65% yield | C1(=CC=CC=C1)SC(C(=O)O)C1=CC(=CC=C1)OC1=CC=CC=C1 | C20H16O3S
